US05753664
5-Methyl-1-[4-(4-trifluoromethylbenzoyl)benzyl]-1H-pyrrolo [2,3-d]pyridazin-4(5H)-one
A solution of 5-methyl-1H-pyrrolo[2,3-d]pyridazin-4(5H)-one (298 mg) in DMF (10 ml) was dripped into a suspension of 60% sodium hydride-oil (96 mg) in DMF (8 ml) on an ice-water bath. The mixture was stirred at room temperature for 1 hour, after which a solution of 4-(4-trifluoromethylbenzoyl)benzyl bromide (755 mg) in DMF (15 ml) was added and the mixture was further stirred at room temperature for 3 hours. The reaction was stopped by adding water and the reaction mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (developer; n-hexane: ethyl acetate=1:2) to provide the title compound as light-brown powder (436 mg, yield 53%).

reactant | 5-methyl-1H-pyrrolo[2,3-d]pyridazin-4(5H)-one | 298 mg | CN1N=CC2=C(C1=O)C=CN2 | C7H7N3O
reactant | sodium hydride | 96 mg | [H-].[Na+]
reactant | 4-(4-trifluoromethylbenzoyl)benzyl bromide | 755 mg | FC(C1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1)(F)F | C15H10BrF3O
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 5-Methyl-1-[4-(4-trifluoromethylbenzoyl)benzyl]-1H-pyrrolo [2,3-d]pyridazin-4(5H)-one | 436 mg, yield 53% | CN1N=CC2=C(C1=O)C=CN2CC2=CC=C(C=C2)C(C2=CC=C(C=C2)C(F)(F)F)=O | C22H16F3N3O2
